US05864043
Tert.butyl 4'-[(benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
tert.butyl 4'-[(2-n-butyl-7-methoxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.50 (Silica gel: methylene chloride/ethanol=19:1)

reactant | tert.butyl 4'-[(2-n-butyl-7-methoxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OC | C31H36N2O3
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | Tert.butyl 4'-[(benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | N1(C=NC2=C1C=CC=C2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C | C25H24N2O2
